US07645771B2
A mixture of 1-(8-{2-[4-(3-ethoxyphenyl) piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole dihydrochloride (0.2 g, 0.39 mmol), triethylamine (0.11 mL, 0.78 mmol) and trimethylacetyl chloride (0.053 mL, 0.43 mmol) in dichloromethane (4 mL) was stirred at rt for 1 h before the reaction mixture was quenched with saturated sodium bicarbonate solution. The organic layer was separated, dried, concentrated and purified by chromatography on silica gel eluting with a dichloromethane to 1:9 methanol:dichloromethane gradient to give 1-((1R,5S)-8-{2-[1-(2,2-dimethylpropanoyl)-4-(3-ethoxyphenyl) piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole as a foam (0.14 g, 65%). 1H NMR (400 MHz, CDCl3) δ 7.65 (m, 1H), 7.28 (m, 2H), 7.16 (m, 2H), 6.86 (m, 2H), 6.76 (m, 1H), 4.63 (m, 1H), 4.04 (m, 2H), 3.94 (m, 2H), 3.29 (m, 4H), 2.59 (s, 3H), 2.40 (m, 2H), 2.19 (m, 2H), 1.66-1.95 (m, 12H), 1.43 (t, 3H), 1.26 (s, 9H). HRMS C35H48N4O2 m/z 557.3856 (M+H)Cal., 557.3840 (M+H)Obs..

reactant | 1-(8-{2-[4-(3-ethoxyphenyl) piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole dihydrochloride | 0.39 mmol, 0.2 g | Cl.Cl.C(C)OC=1C=C(C=CC1)C1(CCNCC1)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C
reactant | triethylamine | 0.78 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylacetyl chloride | 0.43 mmol, 0.053 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 1-((1R,5S)-8-{2-[1-(2,2-dimethylpropanoyl)-4-(3-ethoxyphenyl) piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole | 0.14 g, 65% | CC(C(=O)N1CCC(CC1)(C1=CC(=CC=C1)OCC)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)(C)C | C35H48N4O2
